US05240925
c. Preparation of 4-(3-Chloropropyl)-2,6-dimethylmorpholine
This intermediate (2.3 g.) was prepared using the procedure described in Example 4c except using 5.0 g. (28 mmoles) of 4-(3-hydroxypropyl)-2,6-dimethylmorpholine and 9.5 g. (30 mmoles) of triphenylphosphine in 50 ml. of carbon tetrachloride and was isolated as a colorless liquid.

reactant | 4-(3-hydroxypropyl)-2,6-dimethylmorpholine | 28 mmoles | OCCCN1CC(OC(C1)C)C | C9H19NO2
reactant | triphenylphosphine | 30 mmoles | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(3-Chloropropyl)-2,6-dimethylmorpholine | ClCCCN1CC(OC(C1)C)C | C9H18ClNO
